US09328067B2
methyl 3-({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfanyl)propanoate
To a solution of methyl 3-((2-amino-4-chlorophenyl)thio)propanoate (412 mg, 1.67 mmol) in pyridine (2 ml) was added 1-benzofuran-2-sulfonyl chloride (363 mg, 1.67 mmol). The reaction was stirred at room temperature for 72 hours, diluted with EtOAc and extracted with HCl, brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (10-20% EtOAc in hexane) to yield the title compound (373 mg, 52%).

reactant | methyl 3-((2-amino-4-chlorophenyl)thio)propanoate | 1.67 mmol, 412 mg | NC1=C(C=CC(=C1)Cl)SCCC(=O)OC | C10H12ClNO2S
reactant | 1-benzofuran-2-sulfonyl chloride | 1.67 mmol, 363 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 3-({2-[(1-benzofuran-2-ylsulfonyl)amino]-4-chlorophenyl}sulfanyl)propanoate | 373 mg, 52% | O1C(=CC2=C1C=CC=C2)S(=O)(=O)NC2=C(C=CC(=C2)Cl)SCCC(=O)OC | C18H16ClNO5S2
